US07723330B2
Step F: Preparation of 5-(3-fluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
A solution of 5-(4-(benzyloxy)-3-fluorophenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.133 g, 0.331 mmol) in TFA (1.5 mL) was stirred at 40° C. for 3.5 hours The reaction mixture was concentrated to dryness and then purified by flash column chromatography, eluting with 20:1 dichloromethane/MeOH. The desired product (0.103 g, 100%) was obtained as a foamy white solid. 1H NMR (400 MHz, DMSO-d6) δ 9.81 (br s, 1H), 8.96 (br s, 1H), 7.86 (s, 1H), 7.56-7.45 (m, 3H), 7.37 (t, J=7.4 Hz, 2H), 7.27 (m, 1H), 7.15 (t, J=7.2 Hz, 1H), 6.92 (t, J=9.0 Hz, 1H), 3.54 (s, 3H). LRMS (APCI pos) m/e 312 (M+1).

reactant | 5-(4-(benzyloxy)-3-fluorophenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.331 mmol, 0.133 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O)F | C24H20FN3O2
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3-fluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.103 g, 100% | FC=1C=C(C=CC1O)C=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C17H14FN3O2
